US06602515B2
Ethyl-alpha-acetyl-3,5-dimethoxy-4-hydroxy-cinnamate
Monodemethylation of 3,4,5-trimethoxy benzaldehyde using sulphuric acid at 40° C. for 8 hours as described above in Example 1 yields syringaldehyde. Condensation of 3,5-Dimethoxy-4-hydroxy benzaldehyde (syringaldehyde) with ethyl acetoacetate in the presence of piperidine—acetic acid and benzene as the reaction medium at reflux temperature yields the title product. The reaction takes about 3.5 hours for completion.

reactant | 3,5-Dimethoxy-4-hydroxy benzaldehyde | COC=1C=C(C=O)C=C(C1O)OC | C9H10O4
reactant | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | piperidine—acetic acid | N1(CCCCC1)CC(=O)O | C7H13NO2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | Ethyl-alpha-acetyl-3,5-dimethoxy-4-hydroxy-cinnamate | C(C)OC(C(=CC1=CC(=C(C(=C1)OC)O)OC)C(C)=O)=O | C15H18O6
